US04075001
Using the procedure of Example I, part F, 81.7 g of 3-amino-2-cyano-3-(1-pyrrolidinyl)propenethioamide were oxidized with 48 ml of 30% hydrogen peroxide to give 71.2 g of 5-amino-4-cyano-3-(1-pyrrolidinyl)isothiazole, m.p. 198°. The nmr spectrum was consistent with the assigned structure.

reactant | 3-amino-2-cyano-3-(1-pyrrolidinyl)propenethioamide | 81.7 g | NC(=C(C(N)=S)C#N)N1CCCC1 | C8H12N4S
reactant | hydrogen peroxide | 48 ml | OO | H2O2
product | 5-amino-4-cyano-3-(1-pyrrolidinyl)isothiazole | 71.2 g | NC1=C(C(=NS1)N1CCCC1)C#N | C8H10N4S
